US07902181B2
c) (S)-3-(6-Bromopyridin-3-yl)-2-(tert-butoxycarbonylamino)propanoic Acid
A slurry of (S)-2-amino-3-(6-bromopyridin-3-yl)propanoic acid (2.4 g) in dioxane (20 mL) was cooled to 0° C. and sodium hydroxide (19.59 mL, 1M) was added followed by di-tert-butyldicarbonate (2.73 mL). The reaction mixture was stirred at 0° C. for 1 h then at RT for 2 h. The pH of the reaction mixture was checked and brought to pH9 by addition of a drop of sodium hydroxide (1M). Solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The water was brought to pH 2-3 with 2M hydrochloric acid and product was extracted with ethyl acetate. The ethyl acetate was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give the sub-title compound (1.82 g).

reactant | (S)-2-amino-3-(6-bromopyridin-3-yl)propanoic acid | 2.4 g | N[C@H](C(=O)O)CC=1C=NC(=CC1)Br | C8H9BrN2O2
reactant | sodium hydroxide | 1M, 19.59 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 2.73 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(6-Bromopyridin-3-yl)-2-(tert-butoxycarbonylamino)propanoic Acid | 1.82 g | BrC1=CC=C(C=N1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C13H17BrN2O4
